R1 (net96 net97) R=7.9E6
R2 ( net18 net119)  R=5.9E3
T3 ( net119 net119 vdd! vdd!)  pfet  L=4.88E-6 W=8.60E-6
T4 ( net104 net119 vdd! vdd!)  pfet  L=4.88E-6 W=8.60E-6
T5 (net44 vdd! vdd! 0) pfet L=0.85E-6 W=0.76E-6
T6 ( net24 net24 vdd! vdd!)  pfet  L=3.72E-6 W=0.80E-6
T7 ( net169 net24 vdd! vdd!)  pfet  L=3.72E-6 W=0.80E-6
R8 ( net169 net26)  R=3.8E0
C9 (0 net28) C=8.0E-7
T10 (net46 net43 net43 0) pfet L=4.50E-6 W=6.04E-6
T11 (net52 net63 net63 0) pfet L=6.16E-6 W=0.16E-6
R12 (net106 net155) R=2.2E1
T13 (net46 net11 net11 0) nfet L=7.62E-6 W=6.42E-6
T14 (net63 net159 net159 0) nfet L=6.48E-6 W=5.96E-6
T15 (net62 net54 net54 0) nfet L=7.66E-6 W=7.17E-6
T16 (net63 net71 net71 0) nfet L=3.99E-6 W=3.26E-6
T17 (net42 0 0 0) nfet L=4.49E-6 W=3.02E-6
T18 (net33 net138 net138 0) nfet L=4.58E-6 W=2.78E-6
R19 (0 net97) R=3.6E6
T20 (net94 net104 net104 0) nfet L=3.25E-6 W=2.12E-6
R21 (net89 net131) R=4.3E6
C22 (net76 net59) C=5.7E-7
R23 (net10 net14) R=4.6E4
T24 (net153 net124 net124 0) pfet L=8.15E-6 W=2.25E-6
C25 (net165 0) C=2.7E-11
C26 (net69 net166) C=2.1E-8
T27 (0 net27 net27 0) pfet L=3.35E-6 W=9.79E-6
T28 (net80 net82 net82 0) nfet L=5.57E-6 W=0.99E-6
T29 (net77 vdd! vdd! 0) pfet L=7.15E-6 W=4.14E-6
T30 (net3 net15 net15 0) nfet L=2.54E-6 W=3.06E-6
C31 (net17 net115) C=8.2E-13
C32 (net96 net120) C=9.0E-7
R33 (vdd! net39) R=3.0E2
R34 (net3 net129) R=1.2E6
C35 (net83 net94) C=7.7E-6
T36 (net129 net74 net74 0) nfet L=6.01E-6 W=7.08E-6
C37 (vdd! net110) C=0.3E-9
C38 (net19 net63) C=5.3E-10
R39 (net121 net118) R=3.2E3
C40 (net153 net77) C=4.4E-5
R41 (net96 net66) R=2.9E3
T42 (net162 net137 net137 0) nfet L=6.95E-6 W=7.53E-6
C43 (net19 net7) C=9.8E-5
C44 (net43 net163) C=4.4E-12
C45 (net67 net135) C=9.2E-14
T46 (net142 net63 net63 0) nfet L=2.55E-6 W=7.30E-6
C47 (net31 net165) C=8.1E-6
T48 (net13 net151 net151 0) pfet L=2.85E-6 W=6.28E-6
T49 (net38 net19 net19 0) nfet L=9.74E-6 W=8.18E-6
C50 (net140 net121) C=7.8E-12
T51 (net130 net56 net56 0) nfet L=8.14E-6 W=9.31E-6
C52 (net72 net10) C=2.5E-7
R53 (net161 net97) R=4.8E2
R54 (net26 net150) R=5.2E4
R55 (net104 net128) R=6.8E0
R56 (net143 net85) R=0.2E3
T57 (net95 net44 net44 0) pfet L=3.56E-6 W=7.15E-6
T58 (0 net75 net75 0) nfet L=2.40E-6 W=1.10E-6
T59 (net66 net13 net13 0) nfet L=0.40E-6 W=8.03E-6
T60 (net121 net168 net168 0) pfet L=6.97E-6 W=6.40E-6
C61 (net20 net73) C=7.0E-9
T62 (net127 net159 net159 0) pfet L=8.17E-6 W=5.19E-6
C63 (net28 net38) C=8.6E-8
R64 (net138 net160) R=1.8E1
C65 (net34 net60) C=5.8E-5
R66 (vdd! net10) R=1.7E2
R67 (net55 net36) R=0.4E4
T68 (net112 net150 net150 0) pfet L=9.16E-6 W=5.18E-6
T69 (net1 net72 net72 0) pfet L=0.42E-6 W=6.90E-6
C70 (net152 net155) C=3.0E-5
T71 (net77 net166 net166 0) pfet L=5.49E-6 W=5.64E-6
T72 (net132 net53 net53 0) nfet L=0.25E-6 W=8.80E-6
T73 (0 net87 net87 0) pfet L=8.35E-6 W=8.94E-6
T74 (net116 net121 net121 0) nfet L=2.72E-6 W=3.54E-6
C75 (net106 net160) C=4.6E-10
C76 (net158 net152) C=9.0E-7
T77 (net67 net133 net133 0) pfet L=8.27E-6 W=3.48E-6
T78 (net129 net59 net59 0) nfet L=9.39E-6 W=9.28E-6
R79 (net52 net22) R=1.4E2
C80 (net41 net100) C=0.8E-10
R81 (net96 net130) R=1.7E2
T82 (net76 net9 net9 0) nfet L=3.23E-6 W=2.25E-6
T83 (net83 vdd! vdd! 0) pfet L=3.92E-6 W=5.47E-6
C84 (net151 net73) C=7.1E-8
T85 (net29 net72 net72 0) pfet L=5.15E-6 W=8.02E-6
R86 (net140 net60) R=6.9E3
T87 (net52 0 0 0) nfet L=7.58E-6 W=2.95E-6
T88 (net68 net146 net146 0) nfet L=8.06E-6 W=5.89E-6
R89 (net171 net106) R=7.3E3
T90 (net159 net148 net148 0) nfet L=3.12E-6 W=0.64E-6
C91 (net1 net33) C=5.8E-14
C92 (vdd! net69) C=4.4E-8
R93 (net93 net34) R=5.7E6
R94 (net136 net86) R=1.5E2
T95 (net159 net157 net157 0) pfet L=4.03E-6 W=6.05E-6
T96 (net51 net133 net133 0) nfet L=1.62E-6 W=9.38E-6
R97 (net35 net150) R=7.5E2
T98 (net10 net138 net138 0) pfet L=9.46E-6 W=8.55E-6
R99 (net70 net11) R=7.3E2
T100 (net43 net102 net102 0) pfet L=7.42E-6 W=4.96E-6
C101 (0 net34) C=5.3E-13
T102 (vdd! net94 net94 0) nfet L=9.52E-6 W=4.86E-6
T103 (net135 net8 net8 0) pfet L=4.55E-6 W=7.34E-6
T104 (net101 0 0 0) pfet L=6.93E-6 W=7.15E-6
T105 (net61 net156 net156 0) pfet L=4.76E-6 W=2.31E-6
R106 (vdd! net34) R=1.8E2
T107 (0 net40 net40 0) nfet L=7.73E-6 W=1.36E-6
C108 (net97 net126) C=9.9E-13
R109 (net6 net149) R=1.5E5
T110 (0 net171 net171 0) nfet L=2.78E-6 W=1.13E-6
R111 (net125 net4) R=0.4E2
C112 (net150 vdd!) C=1.7E-6
C113 (net153 net146) C=6.5E-10
C114 (net34 net86) C=4.6E-13
T115 (net57 net90 net90 0) nfet L=9.18E-6 W=1.43E-6
T116 (vdd! net114 net114 0) nfet L=2.28E-6 W=7.52E-6
C117 (net111 net2) C=4.7E-14
T118 (net52 net142 net142 0) pfet L=7.84E-6 W=6.32E-6
C119 (net63 net93) C=8.4E-9
T120 (net150 net38 net38 0) pfet L=8.75E-6 W=9.50E-6
R121 (net12 net134) R=6.7E0
C122 (net129 net11) C=1.4E-10
T123 (net121 net91 net91 0) nfet L=0.36E-6 W=0.98E-6
C124 (net78 0) C=7.8E-12
T125 (0 net91 net91 0) nfet L=0.18E-6 W=9.90E-6
C126 (net83 net42) C=2.7E-5
C127 (net44 net118) C=6.8E-8
T128 (net6 net167 net167 0) nfet L=8.78E-6 W=7.70E-6
T129 (net28 net108 net108 0) nfet L=3.60E-6 W=2.40E-6
R130 (net139 net134) R=9.0E2
T131 (net156 net151 net151 0) nfet L=5.88E-6 W=4.57E-6
T132 (net129 net8 net8 0) pfet L=0.30E-6 W=7.59E-6
R133 (net132 net146) R=9.2E2
R134 (net4 net95) R=3.0E2
C135 (net52 net74) C=5.9E-13
R136 (0 net94) R=7.4E4
R137 (net166 net171) R=0.6E1
C138 (net70 net39) C=3.3E-13
R139 (net87 net55) R=1.4E2
C140 (net18 net1) C=9.7E-9
C141 (net34 net142) C=6.4E-14
T142 (net64 0 0 0) nfet L=9.09E-6 W=3.99E-6
R143 (net139 net85) R=9.9E3
T144 (net152 net126 net126 0) pfet L=6.90E-6 W=4.54E-6
T145 (net38 net13 net13 0) pfet L=9.67E-6 W=5.58E-6
C146 (net102 vdd!) C=7.4E-5
T147 (net109 0 0 0) pfet L=7.77E-6 W=3.92E-6
R148 (net150 net93) R=4.7E3
R149 (net5 0) R=2.0E1
R150 (net123 net161) R=4.5E1
T151 (net109 net93 net93 0) pfet L=6.26E-6 W=2.79E-6
R152 (net45 net150) R=4.2E0
T153 (net100 net77 net77 0) nfet L=7.01E-6 W=1.00E-6
C154 (net93 net68) C=7.6E-5
T155 (net60 net71 net71 0) pfet L=3.61E-6 W=8.89E-6
R156 (net136 net170) R=1.8E0
R157 (net5 net71) R=5.7E2
T158 (net150 0 0 0) nfet L=0.56E-6 W=3.19E-6
C159 (net123 net155) C=7.2E-8
T160 (net71 net9 net9 0) pfet L=9.85E-6 W=5.30E-6
T161 (net56 net170 net170 0) pfet L=9.99E-6 W=4.77E-6
T162 (net148 net144 net144 0) nfet L=3.31E-6 W=5.41E-6
C163 (net141 net140) C=2.0E-9
T164 (net134 net92 net92 0) nfet L=3.46E-6 W=0.89E-6
R165 (net26 net131) R=4.8E1
T166 (net56 net7 net7 0) pfet L=0.91E-6 W=4.27E-6
R167 (net40 net105) R=4.4E2
C168 (net55 net43) C=1.3E-7
T169 (net66 net106 net106 0) pfet L=7.05E-6 W=3.20E-6
C170 (net82 net94) C=2.2E-5
C171 (net161 net165) C=3.1E-11
T172 (net62 net102 net102 0) pfet L=3.64E-6 W=9.99E-6
T173 (net162 net106 net106 0) nfet L=7.98E-6 W=2.15E-6
R174 (net170 net161) R=9.4E4
T175 (net1 net2 net2 0) pfet L=6.68E-6 W=3.67E-6
C176 (net95 net10) C=1.8E-9
T177 (net80 net58 net58 0) nfet L=1.54E-6 W=3.92E-6
T178 (net98 net27 net27 0) nfet L=5.45E-6 W=4.64E-6
T179 (net30 net31 net31 0) nfet L=5.35E-6 W=4.60E-6
R180 (net160 net50) R=9.6E0
T181 (net128 vdd! vdd! 0) nfet L=7.63E-6 W=6.33E-6
T182 (net147 net160 net160 0) pfet L=6.06E-6 W=5.65E-6
R183 (net21 net143) R=7.9E5
R184 (net46 net118) R=7.3E5
T185 (net13 net93 net93 0) nfet L=2.49E-6 W=4.01E-6
T186 (net21 net9 net9 0) pfet L=6.20E-6 W=5.74E-6
T187 (net84 net67 net67 0) pfet L=8.11E-6 W=4.09E-6
R188 (net94 net133) R=1.7E4
C189 (net32 net22) C=9.2E-7
T190 (vdd! net159 net159 0) nfet L=3.09E-6 W=9.24E-6
T191 (net60 net42 net42 0) nfet L=4.68E-6 W=9.44E-6
T192 (net125 net2 net2 0) nfet L=9.07E-6 W=6.00E-6
T193 (net99 net2 net2 0) pfet L=8.30E-6 W=7.23E-6
T194 (net153 vdd! vdd! 0) pfet L=3.64E-6 W=7.79E-6
T195 (net51 net136 net136 0) nfet L=2.33E-6 W=3.65E-6
T196 (net84 net23 net23 0) pfet L=0.43E-6 W=5.45E-6
R197 (net170 net64) R=4.6E5
C198 (net62 net146) C=5.7E-13
R199 (0 net151) R=1.4E2
T200 (net147 vdd! vdd! 0) pfet L=7.10E-6 W=6.68E-6
T201 (net83 net94 net94 0) nfet L=3.84E-6 W=5.14E-6
R202 (net51 net40) R=3.7E2
C203 (net50 net87) C=3.8E-7
R204 (net98 net135) R=4.8E0
R205 (net87 net5) R=1.1E3
T206 (net168 net142 net142 0) nfet L=1.94E-6 W=3.87E-6
T207 (vdd! net144 net144 0) pfet L=1.12E-6 W=5.45E-6
C208 (net80 net37) C=6.9E-13
C209 (net92 net74) C=8.1E-7
C210 (net101 net44) C=1.5E-13
T211 (net53 net8 net8 0) pfet L=2.68E-6 W=3.36E-6
C212 (vdd! net6) C=0.9E-13
T213 (net60 net32 net32 0) pfet L=0.94E-6 W=7.46E-6
R214 (net82 net77) R=4.4E2
T215 (net66 net67 net67 0) nfet L=5.00E-6 W=1.24E-6
C216 (net14 net6) C=10.0E-14
R217 (net4 vdd!) R=3.1E0
R218 (net15 net30) R=3.0E2

