R1 ( net19 net172)  R=9.7E6
T2 ( net172 net172 net77 0)  nfet  L=8.10E-6 W=6.42E-6
T3 ( net77 net258 0 0)  nfet  L=8.10E-6 W=6.42E-6
T4 ( net258 net258 0 0)  nfet  L=8.10E-6 W=6.42E-6
T5 ( net240 net172 net258 0)  nfet  L=8.10E-6 W=6.42E-6
T6 (vdd! net13 net13 0) pfet L=8.71E-6 W=7.64E-6
R7 (net136 net152) R=2.3E2
T8 (net214 net114 net114 0) pfet L=1.24E-6 W=0.23E-6
T9 ( net220 net220 vdd! vdd!)  pfet  L=7.79E-6 W=2.85E-6
T10 ( net119 net220 vdd! vdd!)  pfet  L=7.79E-6 W=2.85E-6
R11 ( net119 net147)  R=6.6E1
C12 (net186 net229) C=1.4E-6
T13 (net186 vdd! vdd! 0) nfet L=0.73E-6 W=5.52E-6
T14 (net237 net22 net22 0) nfet L=8.13E-6 W=4.88E-6
C15 (net233 0) C=2.1E-8
T16 (net149 vdd! vdd! 0) pfet L=5.59E-6 W=2.08E-6
T17 (net139 net94 net94 0) nfet L=1.80E-6 W=4.10E-6
C18 (vdd! net231) C=8.5E-8
R19 (net255 vdd!) R=3.4E4
C20 (net34 net139) C=7.1E-7
T21 (net177 net156 net156 0) nfet L=1.64E-6 W=2.73E-6
C22 (0 net238) C=8.6E-11
T23 (net175 net243 net243 0) nfet L=6.05E-6 W=4.20E-6
T24 (net243 net235 net235 0) nfet L=7.08E-6 W=0.99E-6
C25 (net9 0) C=2.7E-10
T26 (net48 net105 net105 0) nfet L=5.69E-6 W=3.64E-6
R27 (net107 net102) R=4.5E5
T28 (net168 vdd! vdd! 0) pfet L=2.25E-6 W=5.76E-6
T29 (net155 net111 net111 0) pfet L=0.68E-6 W=1.03E-6
T30 (net130 net13 net13 0) pfet L=4.03E-6 W=8.51E-6
C31 (net216 net160) C=5.1E-8
T32 (net83 net165 net165 0) pfet L=2.25E-6 W=6.33E-6
R33 (net195 net109) R=8.2E4
T34 (net245 net2 net2 0) nfet L=3.55E-6 W=0.96E-6
R35 (net21 net34) R=4.5E0
C36 (net29 net226) C=1.7E-10
T37 (net15 net187 net187 0) pfet L=1.55E-6 W=1.24E-6
T38 (net230 net84 net84 0) pfet L=7.27E-6 W=6.12E-6
T39 (net19 net116 net116 0) pfet L=4.20E-6 W=4.98E-6
R40 (net26 net136) R=0.1E0
T41 (net57 net227 net227 0) nfet L=5.53E-6 W=5.51E-6
R42 (net246 vdd!) R=3.7E1
R43 (vdd! net102) R=2.4E3
C44 (net175 net196) C=2.2E-5
T45 (net85 net133 net133 0) nfet L=5.71E-6 W=6.41E-6
T46 (net228 net123 net123 0) pfet L=5.20E-6 W=0.46E-6
T47 (net134 net15 net15 0) pfet L=1.51E-6 W=0.77E-6
R48 (net85 net54) R=4.5E3
T49 (net205 net141 net141 0) pfet L=3.79E-6 W=5.76E-6
R50 (net244 net78) R=2.0E6
T51 (net4 0 0 0) nfet L=6.44E-6 W=0.80E-6
T52 (net97 net179 net179 0) pfet L=5.74E-6 W=7.93E-6
T53 (net65 net56 net56 0) pfet L=0.40E-6 W=1.82E-6
T54 (net173 net174 net174 0) pfet L=9.13E-6 W=1.73E-6
C55 (net207 net12) C=1.2E-8
R56 (net129 net162) R=0.3E2
T57 (net109 net167 net167 0) nfet L=6.61E-6 W=2.68E-6
T58 (net94 net177 net177 0) pfet L=6.44E-6 W=8.93E-6
T59 (net111 net54 net54 0) nfet L=7.66E-6 W=1.27E-6
R60 (net94 net49) R=7.9E6
C61 (net225 0) C=8.7E-7
C62 (net123 net199) C=3.8E-7
T63 (net30 net90 net90 0) nfet L=8.82E-6 W=2.92E-6
T64 (net99 net248 net248 0) nfet L=8.23E-6 W=1.84E-6
T65 (net246 net139 net139 0) pfet L=6.44E-6 W=8.56E-6
T66 (net145 net136 net136 0) pfet L=5.70E-6 W=4.60E-6
T67 (net181 net208 net208 0) pfet L=7.12E-6 W=8.25E-6
T68 (net181 net165 net165 0) nfet L=9.64E-6 W=1.01E-6
T69 (net169 net57 net57 0) pfet L=8.86E-6 W=3.62E-6
T70 (net83 net46 net46 0) pfet L=4.13E-6 W=2.09E-6
C71 (vdd! 0) C=1.4E-9
T72 (net79 net48 net48 0) nfet L=0.99E-6 W=8.69E-6
T73 (net148 net163 net163 0) pfet L=4.79E-6 W=6.51E-6
T74 (net125 net116 net116 0) pfet L=3.25E-6 W=0.59E-6
C75 (net162 net138) C=7.5E-8
C76 (net120 net122) C=3.6E-9
T77 (net158 net52 net52 0) nfet L=6.77E-6 W=2.13E-6
T78 (net70 0 0 0) nfet L=6.18E-6 W=6.96E-6
T79 (net249 net35 net35 0) nfet L=2.76E-6 W=7.42E-6
T80 (vdd! net208 net208 0) pfet L=9.34E-6 W=8.80E-6
T81 (net210 net192 net192 0) nfet L=7.84E-6 W=7.61E-6
T82 (0 net143 net143 0) pfet L=1.72E-6 W=6.92E-6
T83 (net203 net241 net241 0) nfet L=2.67E-6 W=6.00E-6
T84 (net198 net103 net103 0) pfet L=2.24E-6 W=4.20E-6
T85 (net174 net111 net111 0) nfet L=0.64E-6 W=4.85E-6
T86 (net181 net34 net34 0) pfet L=0.37E-6 W=4.17E-6
C87 (0 net121) C=1.6E-9
C88 (net158 net134) C=0.7E-12
C89 (net45 net143) C=9.6E-8
C90 (net101 net19) C=1.4E-10
R91 (net75 net27) R=4.3E1
T92 (vdd! net226 net226 0) pfet L=0.70E-6 W=1.93E-6
R93 (net217 net69) R=9.1E0
T94 (net221 net165 net165 0) nfet L=5.81E-6 W=8.16E-6
T95 (net174 net110 net110 0) pfet L=5.36E-6 W=3.90E-6
C96 (net239 vdd!) C=1.1E-11
R97 (net68 net97) R=3.5E3
T98 (net101 net134 net134 0) nfet L=2.49E-6 W=1.22E-6
T99 (net195 net250 net250 0) pfet L=8.72E-6 W=9.85E-6
T100 (net248 net239 net239 0) nfet L=6.10E-6 W=7.06E-6
C101 (net229 net248) C=7.2E-9
C102 (net204 net133) C=2.1E-11
C103 (vdd! net103) C=3.1E-11
C104 (net3 net197) C=3.9E-14
T105 (net25 net128 net128 0) pfet L=1.94E-6 W=5.69E-6
C106 (net132 vdd!) C=4.7E-5
T107 (net128 net140 net140 0) pfet L=3.57E-6 W=3.76E-6
T108 (net223 net17 net17 0) nfet L=7.74E-6 W=5.69E-6
T109 (0 net96 net96 0) pfet L=0.30E-6 W=7.94E-6
T110 (net9 net230 net230 0) pfet L=6.64E-6 W=7.80E-6
T111 (net238 net83 net83 0) pfet L=5.13E-6 W=4.89E-6
T112 (net8 net175 net175 0) nfet L=8.96E-6 W=8.28E-6
T113 (net212 net126 net126 0) pfet L=7.83E-6 W=0.95E-6
T114 (net242 net210 net210 0) pfet L=3.22E-6 W=7.20E-6
T115 (net184 net5 net5 0) nfet L=7.24E-6 W=7.92E-6
C116 (net226 net9) C=0.9E-5
T117 (0 net13 net13 0) pfet L=6.01E-6 W=4.69E-6
R118 (net212 net232) R=8.1E0
R119 (net15 net134) R=2.1E1
T120 (net45 vdd! vdd! 0) nfet L=4.17E-6 W=5.08E-6
R121 (net148 vdd!) R=4.7E6
T122 (net252 net25 net25 0) pfet L=2.50E-6 W=6.07E-6
C123 (net120 net137) C=7.1E-14
C124 (0 net71) C=5.0E-13
R125 (net202 net253) R=9.5E2
R126 (net145 net112) R=6.9E3
T127 (net115 net40 net40 0) nfet L=4.57E-6 W=2.75E-6
R128 (net65 net68) R=2.4E2
R129 (net30 net42) R=5.1E5
R130 (0 net139) R=7.0E1
C131 (net40 net56) C=7.9E-10
C132 (net53 net9) C=0.1E-7
T133 (net200 net206 net206 0) nfet L=4.63E-6 W=6.24E-6
T134 (net38 net27 net27 0) pfet L=5.56E-6 W=9.94E-6
R135 (net47 net39) R=9.6E3
C136 (vdd! net104) C=0.9E-13
R137 (net146 net76) R=9.4E4
C138 (net160 net206) C=7.5E-7
R139 (net233 net88) R=2.8E0
T140 (net249 net186 net186 0) nfet L=3.05E-6 W=7.17E-6
R141 (net221 net26) R=1.4E4
T142 (net120 net97 net97 0) nfet L=4.35E-6 W=4.57E-6
T143 (0 net37 net37 0) nfet L=7.18E-6 W=9.63E-6
T144 (net252 net210 net210 0) pfet L=3.00E-6 W=3.45E-6
T145 (net211 net135 net135 0) nfet L=1.50E-6 W=3.80E-6
T146 (net24 net60 net60 0) pfet L=0.44E-6 W=1.63E-6
C147 (net141 net57) C=7.1E-8
T148 (net29 net164 net164 0) pfet L=6.45E-6 W=0.53E-6
T149 (net68 vdd! vdd! 0) nfet L=4.79E-6 W=8.92E-6
T150 (net120 net237 net237 0) nfet L=0.44E-6 W=6.27E-6
R151 (net245 net170) R=3.4E5
T152 (net151 net148 net148 0) nfet L=4.25E-6 W=7.49E-6
C153 (net103 net247) C=4.8E-9
T154 (net164 net208 net208 0) nfet L=1.25E-6 W=4.37E-6
T155 (net112 net237 net237 0) pfet L=5.13E-6 W=3.83E-6
T156 (net92 net3 net3 0) nfet L=1.94E-6 W=3.80E-6
T157 (net161 net144 net144 0) nfet L=4.85E-6 W=3.08E-6
T158 (net177 net227 net227 0) nfet L=6.50E-6 W=4.44E-6
R159 (0 net19) R=0.1E6
T160 (net227 net206 net206 0) nfet L=0.56E-6 W=7.80E-6
R161 (net130 net149) R=2.2E6
T162 (net92 net256 net256 0) pfet L=6.64E-6 W=1.07E-6
C163 (vdd! net71) C=5.6E-10
T164 (net253 0 0 0) pfet L=6.50E-6 W=8.15E-6
C165 (net73 net53) C=6.1E-13
T166 (net87 net88 net88 0) pfet L=3.28E-6 W=0.25E-6
T167 (vdd! net159 net159 0) pfet L=8.33E-6 W=9.18E-6
C168 (net247 net100) C=0.2E-7
R169 (net241 net50) R=7.8E6
T170 (net131 net114 net114 0) nfet L=9.74E-6 W=5.36E-6
R171 (net89 net204) R=7.1E5
T172 (net142 net154 net154 0) nfet L=1.77E-6 W=5.20E-6
T173 (net24 net162 net162 0) nfet L=1.50E-6 W=4.51E-6
C174 (net45 net148) C=3.0E-5
T175 (0 net252 net252 0) pfet L=5.05E-6 W=1.29E-6
T176 (net7 net101 net101 0) nfet L=7.22E-6 W=5.69E-6
R177 (net145 net120) R=7.6E0
C178 (net12 net243) C=5.3E-7
C179 (net10 net195) C=8.6E-7
R180 (net115 net93) R=4.1E0
R181 (net76 0) R=5.8E4
R182 (vdd! net82) R=0.7E1
T183 (net115 net183 net183 0) nfet L=5.77E-6 W=2.29E-6
C184 (net62 net32) C=9.1E-5
T185 (net63 0 0 0) nfet L=6.47E-6 W=7.51E-6
T186 (0 0 0 0) nfet L=9.17E-6 W=0.84E-6
T187 (net12 0 0 0) nfet L=2.17E-6 W=6.44E-6
R188 (net87 net230) R=5.3E5
T189 (net242 net97 net97 0) nfet L=4.29E-6 W=2.50E-6
T190 (net192 net11 net11 0) nfet L=7.87E-6 W=7.27E-6
R191 (net174 0) R=8.2E3
T192 (net226 net122 net122 0) pfet L=6.87E-6 W=7.26E-6
T193 (net215 net52 net52 0) pfet L=5.54E-6 W=6.52E-6
T194 (net76 net226 net226 0) pfet L=6.28E-6 W=0.95E-6
C195 (net184 net191) C=3.0E-12
R196 (net182 net113) R=2.7E1
T197 (vdd! net124 net124 0) pfet L=3.31E-6 W=6.13E-6
T198 (net218 net117 net117 0) nfet L=0.17E-6 W=4.64E-6
T199 (net253 net56 net56 0) pfet L=0.40E-6 W=5.71E-6
C200 (net228 net199) C=0.8E-13
C201 (net128 net161) C=6.4E-6
T202 (net252 net75 net75 0) nfet L=2.71E-6 W=9.73E-6
T203 (net234 net46 net46 0) nfet L=7.01E-6 W=2.04E-6
T204 (net68 net83 net83 0) pfet L=0.87E-6 W=8.39E-6
C205 (net171 net61) C=9.0E-11
T206 (net171 net141 net141 0) nfet L=5.87E-6 W=9.28E-6
R207 (net102 net228) R=5.6E5
T208 (net68 net183 net183 0) nfet L=6.11E-6 W=8.28E-6
R209 (net85 net80) R=3.8E3
R210 (net56 net107) R=9.3E1
R211 (vdd! net132) R=7.0E3
T212 (net34 net41 net41 0) pfet L=0.88E-6 W=1.32E-6
T213 (net210 net75 net75 0) nfet L=6.67E-6 W=9.26E-6
T214 (net18 vdd! vdd! 0) pfet L=2.57E-6 W=8.57E-6
C215 (net162 net176) C=5.4E-10
C216 (0 net88) C=5.4E-8
T217 (net46 net203 net203 0) nfet L=4.73E-6 W=5.11E-6
T218 (net81 net143 net143 0) nfet L=6.28E-6 W=4.29E-6
R219 (net7 net217) R=3.1E3
T220 (net111 vdd! vdd! 0) pfet L=1.95E-6 W=1.49E-6
T221 (net228 net118 net118 0) pfet L=3.43E-6 W=2.81E-6
T222 (vdd! net177 net177 0) nfet L=3.17E-6 W=3.88E-6
R223 (net135 net37) R=6.3E4
T224 (0 net158 net158 0) nfet L=7.28E-6 W=5.29E-6
T225 (net216 net57 net57 0) nfet L=3.82E-6 W=3.84E-6
C226 (net81 vdd!) C=0.4E-10
T227 (vdd! net126 net126 0) pfet L=0.53E-6 W=9.64E-6
T228 (net207 net24 net24 0) pfet L=7.28E-6 W=9.87E-6
T229 (net199 net7 net7 0) pfet L=1.37E-6 W=8.05E-6
C230 (net12 net115) C=9.8E-12
T231 (net57 net240 net240 0) pfet L=8.04E-6 W=9.64E-6
R232 (net47 0) R=6.1E1
C233 (net220 vdd!) C=0.9E-14
T234 (net2 net37 net37 0) nfet L=4.63E-6 W=3.47E-6
T235 (net115 net88 net88 0) nfet L=8.08E-6 W=3.68E-6
C236 (net23 net207) C=3.6E-8
R237 (net30 vdd!) R=7.6E4
R238 (net45 net224) R=1.4E4
T239 (net207 net41 net41 0) pfet L=7.88E-6 W=4.07E-6
T240 (net146 net98 net98 0) pfet L=6.04E-6 W=1.65E-6
R241 (net195 0) R=4.5E1
T242 (net54 net164 net164 0) pfet L=4.50E-6 W=7.83E-6
R243 (net185 net48) R=2.8E6
T244 (net244 net159 net159 0) nfet L=1.76E-6 W=9.60E-6
T245 (net31 vdd! vdd! 0) pfet L=1.93E-6 W=9.63E-6
R246 (net15 net115) R=8.6E0
C247 (vdd! net121) C=6.9E-13
R248 (net71 0) R=6.7E5
T249 (net157 net186 net186 0) pfet L=2.40E-6 W=0.61E-6
T250 (net123 net70 net70 0) pfet L=0.83E-6 W=3.75E-6
T251 (net129 net257 net257 0) pfet L=5.68E-6 W=7.03E-6
T252 (vdd! net60 net60 0) nfet L=2.42E-6 W=6.88E-6
C253 (net127 net219) C=5.9E-9
T254 (net22 net121 net121 0) nfet L=7.74E-6 W=1.10E-6
T255 (net178 net182 net182 0) nfet L=3.30E-6 W=5.06E-6
C256 (net161 net139) C=7.2E-14
C257 (net179 0) C=3.5E-5
R258 (net56 vdd!) R=8.9E0
T259 (net14 net192 net192 0) pfet L=6.05E-6 W=5.05E-6
R260 (net152 net60) R=6.5E5
T261 (net140 net123 net123 0) nfet L=6.19E-6 W=2.15E-6
C262 (vdd! net3) C=0.7E-5
R263 (net72 net253) R=2.3E3
C264 (net68 net45) C=5.8E-9
T265 (net214 net9 net9 0) pfet L=7.16E-6 W=1.85E-6
R266 (vdd! net18) R=6.6E0
T267 (net182 net122 net122 0) pfet L=0.85E-6 W=7.54E-6
T268 (0 net67 net67 0) pfet L=1.66E-6 W=8.32E-6
C269 (net49 net232) C=7.8E-8
T270 (net6 net66 net66 0) nfet L=9.84E-6 W=3.05E-6
T271 (net213 vdd! vdd! 0) nfet L=3.88E-6 W=5.83E-6
R272 (net113 net61) R=8.1E2
C273 (net65 net201) C=7.8E-9
T274 (net61 net198 net198 0) nfet L=5.48E-6 W=7.71E-6
T275 (net144 net151 net151 0) nfet L=3.98E-6 W=6.70E-6
T276 (net195 net66 net66 0) nfet L=9.15E-6 W=3.04E-6
R277 (net209 net90) R=2.4E6
T278 (net211 net230 net230 0) nfet L=8.17E-6 W=5.52E-6
T279 (vdd! vdd! vdd! 0) nfet L=7.95E-6 W=2.53E-6
C280 (net237 net18) C=6.6E-7
T281 (net165 net42 net42 0) pfet L=1.35E-6 W=8.92E-6
T282 (net203 net116 net116 0) nfet L=4.65E-6 W=1.52E-6
T283 (net32 net96 net96 0) pfet L=7.48E-6 W=2.63E-6
T284 (net111 net168 net168 0) pfet L=1.57E-6 W=3.85E-6
R285 (net185 net127) R=7.6E0
C286 (net205 net146) C=9.8E-8
T287 (net224 0 0 0) pfet L=2.61E-6 W=0.22E-6
T288 (net233 net167 net167 0) nfet L=1.10E-6 W=1.97E-6
R289 (net21 net106) R=7.1E4
R290 (vdd! net195) R=7.1E0
R291 (net24 net19) R=2.5E1
C292 (net221 0) C=0.8E-14
R293 (net71 net30) R=4.2E0
T294 (net193 net205 net205 0) pfet L=2.45E-6 W=5.87E-6
T295 (net3 net34 net34 0) nfet L=9.03E-6 W=1.68E-6
R296 (net69 net107) R=9.0E4
T297 (net90 net109 net109 0) nfet L=4.55E-6 W=8.88E-6
T298 (net124 net214 net214 0) nfet L=8.97E-6 W=0.26E-6
T299 (net2 net72 net72 0) nfet L=6.33E-6 W=3.96E-6
R300 (net209 net26) R=0.3E6
C301 (net104 net152) C=0.2E-6
T302 (net234 net224 net224 0) nfet L=5.29E-6 W=2.81E-6
R303 (vdd! net55) R=5.1E1
T304 (net5 net156 net156 0) nfet L=1.87E-6 W=2.55E-6
T305 (net56 net142 net142 0) nfet L=1.74E-6 W=0.23E-6
T306 (net117 net41 net41 0) pfet L=5.47E-6 W=1.41E-6
C307 (net45 net197) C=7.4E-11
T308 (net168 net134 net134 0) pfet L=0.74E-6 W=2.48E-6
R309 (net52 net62) R=0.8E1
R310 (net109 net18) R=8.3E3
R311 (net180 net133) R=2.6E5
T312 (net93 net106 net106 0) nfet L=2.81E-6 W=9.46E-6
R313 (net193 0) R=4.0E4
C314 (net209 net122) C=8.7E-5
T315 (net73 net114 net114 0) nfet L=5.72E-6 W=2.94E-6
C316 (net173 net17) C=3.5E-6
T317 (net194 net141 net141 0) nfet L=8.19E-6 W=5.99E-6
C318 (net151 net248) C=8.8E-7
R319 (net92 net96) R=5.8E4
R320 (net47 net182) R=9.1E6
T321 (net256 net210 net210 0) pfet L=7.67E-6 W=8.96E-6
T322 (net220 net202 net202 0) nfet L=4.71E-6 W=8.09E-6
C323 (net13 vdd!) C=3.3E-7
C324 (net35 net230) C=6.1E-12
T325 (net58 vdd! vdd! 0) nfet L=2.95E-6 W=5.44E-6
T326 (net17 net229 net229 0) nfet L=2.42E-6 W=5.59E-6
R327 (0 net238) R=3.6E2
C328 (net213 net98) C=5.4E-12
T329 (net224 net26 net26 0) nfet L=8.96E-6 W=7.68E-6
T330 (net7 vdd! vdd! 0) pfet L=6.85E-6 W=9.67E-6
T331 (net3 net37 net37 0) nfet L=7.92E-6 W=4.76E-6
T332 (net59 net113 net113 0) nfet L=0.63E-6 W=8.59E-6
R333 (net163 net179) R=7.5E3
T334 (net148 net96 net96 0) pfet L=4.82E-6 W=3.15E-6
T335 (net150 net250 net250 0) nfet L=4.86E-6 W=9.71E-6
C336 (net156 net90) C=6.7E-10
C337 (net22 net107) C=8.2E-8
C338 (net160 net84) C=7.6E-6
R339 (net190 net251) R=1.2E3
T340 (net42 net236 net236 0) pfet L=9.48E-6 W=7.42E-6
C341 (net48 net52) C=8.6E-10
C342 (net62 net141) C=9.6E-14
R343 (net84 net238) R=7.4E1
T344 (net195 net161 net161 0) nfet L=0.48E-6 W=2.84E-6
T345 (net226 net236 net236 0) pfet L=6.89E-6 W=2.33E-6
T346 (net72 net64 net64 0) nfet L=4.78E-6 W=8.86E-6
C347 (net109 net6) C=9.7E-11
T348 (net66 net184 net184 0) nfet L=1.33E-6 W=3.79E-6
T349 (net193 net52 net52 0) nfet L=7.79E-6 W=1.18E-6
T350 (net219 0 0 0) pfet L=2.16E-6 W=4.99E-6

